US09169271B2
2-Chloro-3-fluoro-5-(2,2,3,3-tetrafluoropropoxy)pyridine
6-Chloro-5-fluoro-pyridin-3-ol (300 mg, 2.03 mmol) is dissolved in DMF (10 mL). Potassium carbonate (562 mg, 4.07 mmol) is added followed by 2,2,3,3-tetrafluoropropyl trifluoromethanesulfonate (591 mg, 2.24 mmol) (For preparation of this reagent, see US2013/143900, Ex 1). The reaction is stirred at room temperature for 18 hours then allowed to stand at room temperature for 4 days. The reaction is diluted with aqueous NaHCO3 and ethyl acetate. The layers are separated and the aqueous layer is extracted with ethyl acetate (2×). The combined organic layers are washed with brine and concentrated. The crude material is purified via silica gel chromatography using a 0-10% ethyl acetate/hexanes gradient to give the title compound (440 mg, 83%). ES/MS (m/e): 262.0 (M+1).

reactant | 6-Chloro-5-fluoro-pyridin-3-ol | 2.03 mmol, 300 mg | ClC1=C(C=C(C=N1)O)F | C5H3ClFNO
reactant | Potassium carbonate | 4.07 mmol, 562 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2,2,3,3-tetrafluoropropyl trifluoromethanesulfonate | 2.24 mmol, 591 mg | FC(S(=O)(=O)OCC(C(F)F)(F)F)(F)F | C4H3F7O3S
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Chloro-3-fluoro-5-(2,2,3,3-tetrafluoropropoxy)pyridine | 440 mg, 83% | ClC1=NC=C(C=C1F)OCC(C(F)F)(F)F | C8H5ClF5NO
